US08138377B2
L. Synthesis of N,N-dimethyl-1-p-tolyl-bicyclo[3.1.0]hexan-2-amine hydrochloride
A mixture of 1-p-tolyl-bicyclo[3.1.0]hexan-2-one (139 mg, 0.75 mmol) in dichloromethane (6 mL) was cooled to 0° C. and dimethylamine (2M solution in THF, 1.1 mL, 2.2 mmol) and TiCl4 (71 mg; 0.37 mmol) were added sequentially. After stirring at 0° C. for 45 min, the mixture was warmed to reflux and was stirred overnight. The reaction was then cooled to room temperature, and treated with sodium triacetoxyborohydride (226 mg, 1.06 mmol) at room temperature. The reaction mixture was stirred for 5 h, the reaction mixture was quenched with water (10 mL). The layers were filtered, and the pH was adjusted to 9 using saturated NaHCO3. The layers were then separated, and the aqueous layer was re-extracted with CH2Cl2 (2×), dried over sodium sulfate, filtered and concentrated in vacuo. The oily crude residue was converted to HCl salt using HCl/diethyl ether to give the desired compound (79 mg; 42%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.36 (m, 1 H) 1.50-1.66 (m, 1 H) 1.83-1.92 (m, 1 H) 2.01-2.21 (m, 4 H) 2.39-2.44 (m, 1 H) 2.55-2.90 (m, 6 H) 3.89-4.02 (m, 1 H) 7.01-7.33 (m, 4 H) 11.99 (bs, 1H). 13C NMR (100 MHz, CHLOROFORM-d) d ppm 11.54 (s, 1 C) 21.18 (s, 1 C) 25.78 (s, 1 C) 26.25 (s, 1 C) 30.67 (s, 1 C) 32.84 (s, 1 C) 43.01 (s, 1 C) 44.82 (s, 1 C) 75.27 (s, 1 C) 128.06 (s, 2 C) 130.02 (s, 2 C) 137.04 (s, 1 C) 138.76 (s, 1 C). MS (M+1) 216, HPLC Purity 95% (AUC).

reactant | 1-p-tolyl-bicyclo[3.1.0]hexan-2-one | 0.75 mmol, 139 mg | C1(=CC=C(C=C1)C12C(CCC2C1)=O)C | C13H14O
reactant | dimethylamine | 2.2 mmol, 2M, 1.1 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 1.06 mmol, 226 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | TiCl4 | 0.37 mmol, 71 mg | Cl[Ti](Cl)(Cl)Cl
product | N,N-dimethyl-1-p-tolyl-bicyclo[3.1.0]hexan-2-amine hydrochloride | 79 mg, 42% | Cl.CN(C1C2(CC2CC1)C1=CC=C(C=C1)C)C | InChI=1S/C15H21N.ClH/c1-11-4-6-12(7-5-11)15-10-13(15)8-9-14(15)16(2)3;/h4-7,13-14H,8-10H2,1-3H3;1H
